US07846960B2
4-Methyl-2-(2-oxo-ethyl)-benzoic Acid Methyl Ester
To a solution of 2-allyl-4-methyl-benzoic acid methyl ester (0.980 g, 5.15 mmol) in acetone (20 mL) and water (2.0 mL) are added N-methyl morpholine oxide (0.89 g, 7.57 mmol) and OsO4 (1 mg). The resulting reaction mixture is stirred at room temperature for three hours. The reaction mixture is diluted with ethyl acetate (50 mL) and is washed with Na2S2O3 (1.0 M, 20 mL). The organic layer are concentrated and the residue is dissolved in THF (25 mL) and water (15 mL). To the solution, NaIO4 (3.24 g, 15.2 mmol) is added and the mixture is stirred at room temperature for two hours. The mixture is filtered and the filtrate is concentrated, diluted with ethyl acetate (60 mL), and washed with Na2S2O3 (1.0 M, 20 mL). The organic layer is dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude residue is purified via flash chromatography eluting with 30-40% ethyl acetate in hexane to give the title compound (0.260 g, 26%). 1H NMR (400 MHz, CDCl3) δ 9.74 (s, 1H), 7.94-7.92 (d, 1H), 7.15-7.13 (d, 1H), 7.00 (s, 1H), 3.99 (s, 2H), 3.81 (s, 3H), 2.35 (s, 3H).

reactant | 2-allyl-4-methyl-benzoic acid methyl ester | 5.15 mmol, 0.980 g | COC(C1=C(C=C(C=C1)C)CC=C)=O | C12H14O2
reactant | N-methyl morpholine oxide | 7.57 mmol, 0.89 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | water | 2.0 mL | O | H2O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | OsO4 | 1 mg | O=[Os](=O)(=O)=O
product | 4-Methyl-2-(2-oxo-ethyl)-benzoic Acid Methyl Ester | 0.260 g, 26% | COC(C1=C(C=C(C=C1)C)CC=O)=O | C11H12O3
